US03952024
1h. 2-Pyrazinyl-ethyl methyl sulfide was prepared by reacting vinylpyrazine [c.f. J.Org.Chem. 27, 1363 (1962)] with methylmercaptan by the action of ultra violet light and in the presence of benzoyl peroxide by the method described in Acta Chem. Scand. 8, 295 (1954). The product was identified by mass spectrometry. It has a b.p. of 57°-69°C. at 0.05 mm. Hg.

reactant | vinylpyrazine | C(=C)C1=NC=CN=C1 | C6H6N2
reactant | methylmercaptan | CS | CH4S
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 2-Pyrazinyl-ethyl methyl sulfide | CSCCC1=NC=CN=C1 | C7H10N2S
